datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCOC(=O)c1c[n+:21]([H:20])c(N(C)C)s1.NC(=O)NOCCC([NH3+])C(=O)[O-:10]>>CCOC(=O)c1c[n:21]c(N(C)C)s1.NC(=O)NOCCC([NH3+])C(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1cc(O)n(-c2nc([O-:10])c(C)c(C)[nH+]2)n1.O=Cc1cc[n+:21]([H:20])cc1>>Cc1cc(O)n(-c2nc([O:10][H:20])c(C)c(C)[nH+]2)n1.O=Cc1cc[n:21]cc1 10=20;20,21=21",
"C[NH2+]CC(=O)[O:21][H:20].N#CC(C#N)=N[N-:10]c1ccccc1[N+](=O)[O-]>>C[NH2+]CC(=O)[O-:21].N#CC(C#N)=N[N:10](c1ccccc1[N+](=O)[O-])[H:20] 10=20;20,21=21",
"CC(=O)[O-:10].O=[N+]([O-])c1ccc([O-])c(C[N+:21]2([H:20])CCOCCOCCOCCOCC2)c1>>CC(=O)[O:10][H:20].O=[N+]([O-])c1ccc([O-])c(C[N:21]2CCOCCOCCOCCOCC2)c1 10=20;20,21=21",
"CSc1nc(N)[n+:21]([H:20])[nH]1.Cc1cc(C)c([O-:10])c(C)c1[N+](=O)[O-]>>CSc1nc(N)[n:21][nH]1.Cc1cc(C)c([O:10][H:20])c(C)c1[N+](=O)[O-] 10=20;20,21=21",
"CC(C)C1CC(CC(=O)[O-])[NH+:21]([H:20])C1C(=O)[O-].CC[N:10](CC)Cc1cc(C)ccc1O>>CC(C)C1CC(CC(=O)[O-])[NH:21]C1C(=O)[O-].CC[N+:10](CC)(Cc1cc(C)ccc1O)[H:20] 10=20;20,21=21",
"C=CCC1(C2=CCCCC2)C(=O)[N-]C(=S)[N-:10]C1=O.COc1cc2c(cc1OC)[C@]13CC[N+:21]4([H:20])CC5=CCO[C@H]6CC(=O)N2[C@H]1C6[C@@]5(S(=O)(=O)[O-])C[C@@H]34>>C=CCC1(C2=CCCCC2)C(=O)[N-]C(=S)[N:10]([H:20])C1=O.COc1cc2c(cc1OC)[C@]13CC[N:21]4CC5=CCO[C@H]6CC(=O)N2[C@H]1C6[C@@]5(S(=O)(=O)[O-])C[C@@H]34 10=20;20,21=21",
"CC(C)(/C=C/C(=O)[O-])c1cc([N+](=O)[O-])ccc1[O:21][H:20].Cc1cc2nc3ccc(N(C)C)cc3[n:10]c2cc1N>>CC(C)(/C=C/C(=O)[O-])c1cc([N+](=O)[O-])ccc1[O-:21].Cc1cc2nc3ccc(N(C)C)cc3[n+:10]([H:20])c2cc1N 10=20;20,21=21",
"CC(C)(C)NCCCCCC[NH:10]C(C)(C)C.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC(C)(C)NCCCCCC[NH+:10](C(C)(C)C)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"ClCC1CC2CC[N:10]1CC2.[NH3+]CCCc1cc[n+:21]([H:20])cc1>>ClCC1CC2CC[N+:10]1([H:20])CC2.[NH3+]CCCc1cc[n:21]cc1 10=20;20,21=21",
"CC[N+:21](CC)(CCCCCCCC(C)Nc1c2ccc(Cl)cc2nc2ccc(OC)cc12)[H:20].COc1ccc(C[NH2:10])cc1>>CC[N:21](CC)CCCCCCCC(C)Nc1c2ccc(Cl)cc2nc2ccc(OC)cc12.COc1ccc(C[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC[N+:21](CC)(CC(=O)Nc1ccc(C)cc1)[H:20].O=C([O-])c1cccc2ccc([O-:10])cc12>>CC[N:21](CC)CC(=O)Nc1ccc(C)cc1.O=C([O-])c1cccc2ccc([O:10][H:20])cc12 10=20;20,21=21",
"CC[N:10](CC)Cc1cc([N+](=O)[O-])c2ccccc2c1[O-].Cc1cc(C)c2c(O)c(CC(=O)[O:21][H:20])oc2c1>>CC[N+:10](CC)(Cc1cc([N+](=O)[O-])c2ccccc2c1[O-])[H:20].Cc1cc(C)c2c(O)c(CC(=O)[O-:21])oc2c1 10=20;20,21=21",
"O=C(CS)[O:21][H:20].O=S(=O)([N-]c1ncccn1)c1ccc([O-:10])cc1>>O=C(CS)[O-:21].O=S(=O)([N-]c1ncccn1)c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"COC(=O)C[C@@H]1[C@@H](C(=O)[O-])[NH:10]C[C@H]1C(C)O.Cc1ccc2[nH]c(CO)[n+:21]([H:20])c2c1>>COC(=O)C[C@@H]1[C@@H](C(=O)[O-])[NH+:10]([H:20])C[C@H]1C(C)O.Cc1ccc2[nH]c(CO)[n:21]c2c1 10=20;20,21=21",
"Nc1ccc(C(=O)c2ccc([NH2+:21][H:20])cc2)cc1.Oc1ccc2c(c1)Cc1cc([NH2:10])ccc1-2>>Nc1ccc(C(=O)c2ccc([NH2:21])cc2)cc1.Oc1ccc2c(c1)Cc1cc([NH2+:10][H:20])ccc1-2 10=20;20,21=21",
"C[NH:10]CCCC(=O)[O-].N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C[NH+:10](CCCC(=O)[O-])[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"COc1ccc[n+:21]([H:20])c1.[S-]CC[NH:10]Cc1ccccc1>>COc1ccc[n:21]c1.[S-]CC[NH+:10](Cc1ccccc1)[H:20] 10=20;20,21=21",
"C[Si](C)(C)CC[NH2:10].O=C(CCc1nnnn1-c1ccccc1)[O:21][H:20]>>C[Si](C)(C)CC[NH2+:10][H:20].O=C(CCc1nnnn1-c1ccccc1)[O-:21] 10=20;20,21=21",
"CC(=O)c1ccc[n+:21]([H:20])c1.COCC1=C(C(=O)[O-:10])C2C=CC1C2>>CC(=O)c1ccc[n:21]c1.COCC1=C(C(=O)[O:10][H:20])C2C=CC1C2 10=20;20,21=21",
"CCCCCC[N+:21](CC(O)CC)(CC(O)CC)[H:20].CCCOC(=O)c1ccc([O-:10])cc1>>CCCCCC[N:21](CC(O)CC)CC(O)CC.CCCOC(=O)c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"COc1cc2c(cc1OC)[C@@H]1Cc3cc(OC)c([O-:10])cc3[C@@H](C2)N1C.O=C(CP)[O:21][H:20]>>COc1cc2c(cc1OC)[C@@H]1Cc3cc(OC)c([O:10][H:20])cc3[C@@H](C2)N1C.O=C(CP)[O-:21] 10=20;20,21=21",
"CC(C)C1CC(CC(=O)O)[NH2+]C1C(=O)[O:21][H:20].O=C([O-])c1ccccc1[O-:10]>>CC(C)C1CC(CC(=O)O)[NH2+]C1C(=O)[O-:21].O=C([O-])c1ccccc1[O:10][H:20] 10=20;20,21=21",
"C#CC(CC)(CC)[N+:21](C)(C(C)C)[H:20].C=CC(C)(C)[NH:10]C(C)(C)C=C>>C#CC(CC)(CC)[N:21](C)C(C)C.C=CC(C)(C)[NH+:10](C(C)(C)C=C)[H:20] 10=20;20,21=21",
"C[N:10](C)c1ccc(C#N)cc1.O/N=C/c1cc[n+:21]([H:20])cc1>>C[N+:10](C)(c1ccc(C#N)cc1)[H:20].O/N=C/c1cc[n:21]cc1 10=20;20,21=21",
"O=[N+]([O-])c1cc(O)ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1cc(O)ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[NH+](CC)CCCCCCNc1c2cc(OC)ccc2[n:10]c2cc(Cl)ccc12.COC(=O)c1ccc([N+:21](C)(C)[H:20])cc1>>CC[NH+](CC)CCCCCCNc1c2cc(OC)ccc2[n+:10]([H:20])c2cc(Cl)ccc12.COC(=O)c1ccc([N:21](C)C)cc1 10=20;20,21=21",
"COc1cc(C=O)ccc1[O:21][H:20].COc1ccc(C[NH3+])cc1[NH2:10]>>COc1cc(C=O)ccc1[O-:21].COc1ccc(C[NH3+])cc1[NH2+:10][H:20] 10=20;20,21=21",
"Cc1cccc(C(C)C)c1[O:21][H:20].O=C1NC(=S)[N-:10]c2nc[nH]c21>>Cc1cccc(C(C)C)c1[O-:21].O=C1NC(=S)[N:10]([H:20])c2nc[nH]c21 10=20;20,21=21",
"NC(=O)CCc1ccc[n+:21]([H:20])c1.O=C([O-])c1ccccc1-n1nc([O-:10])cc1-c1ccccc1>>NC(=O)CCc1ccc[n:21]c1.O=C([O-])c1ccccc1-n1nc([O:10][H:20])cc1-c1ccccc1 10=20;20,21=21",
